US07423030B2
22.2. 4-(1,3-Benzodioxol-5-yl)-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting 2-(1,3-benzodioxol-5-yl)carbonyl-5-methoxybenzoic acid unpurified with hydrazine hydrate.

reactant | 2-(1,3-benzodioxol-5-yl)carbonyl-5-methoxybenzoic acid | O1COC2=C1C=CC(=C2)C(=O)C2=C(C(=O)O)C=C(C=C2)OC | C16H12O6
reactant | hydrazine hydrate | O.NN
product | 4-(1,3-Benzodioxol-5-yl)-7-methoxy-2H-phthalazin-1-one | O1COC2=C1C=CC(=C2)C2=NNC(C1=CC(=CC=C21)OC)=O | C16H12N2O4
